US07939666B2
Stage 2: (S)-[tert-Butoxycarbonyl-(2-nitro-benzyl)-amino]-phenyl-acetic acid cyclopentyl ester
To a solution of (S)-(2-Nitro-benzylamino)-phenyl-acetic acid cyclopentyl ester (24.4 g, 69.1 mmol) in THF (150 ml) was added K2CO3 (7.6 g, 69.1 mmol), followed by di-tert-butyl dicarbonate (30.1 g, 138.1 mmol). Water (150 ml) was added and the reaction stirred at room temperature for 8 days with further di-tert-butyl dicarbonate (45.1 g, 206.6 mmol). The reaction mixture was evaporated to dryness. The residue was re-dissolved in EtOAc (300 ml), washed with 0.1 M HCl (150 ml), sat. aq.NaHCO3 and water (150 ml). The EtOAc layer was dried (Na2SO4), filtered and concentrated to dryness yielding a yellow oil. After purification by column chromatography (20% EtOAc/hexane) the product was obtained as clear yellow oil (15 g, 48% yield).

reactant | (S)-(2-Nitro-benzylamino)-phenyl-acetic acid cyclopentyl ester | 69.1 mmol, 24.4 g | C1(CCCC1)OC([C@H](C1=CC=CC=C1)NCC1=C(C=CC=C1)[N+](=O)[O-])=O | C20H22N2O4
reactant | K2CO3 | 69.1 mmol, 7.6 g | C(=O)([O-])[O-].[K+].[K+]
reactant | di-tert-butyl dicarbonate | 138.1 mmol, 30.1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Water | 150 ml | O | H2O
reactant | di-tert-butyl dicarbonate | 206.6 mmol, 45.1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | (S)-[tert-Butoxycarbonyl-(2-nitro-benzyl)-amino]-phenyl-acetic acid cyclopentyl ester | 15 g, 48% yield | C1(CCCC1)OC([C@H](C1=CC=CC=C1)N(CC1=C(C=CC=C1)[N+](=O)[O-])C(=O)OC(C)(C)C)=O | C25H30N2O6
